US05422254
Commerical baker's yeast was from Alko's Rajamaki factory. The standard laboratory strains of S. cerevisiae used were X2180 (ATCC 26109) and S288C (ATCC 26108). Mutant strains are described in the Examples. Laboratory yeast were routinely grown on 1% yeast extract/2% peptone (YP) containing the indicated sugar in aerobic shake flasks at 30° C. and 200 r.p.m. Cells were harvested by centrifugation for 5 minutes at 3000 g, resuspended in distilled water and again centrifuged 5 minutes at 3000 g. The pellets were suspended in about 20 volumes of 25 mM HEPES/KOH pH 7.0 containing 1 mM benzamidine, 2 mM MgCl2, 1 mM EDTA and 1 mM dithiothreitol (HB2M1ED) and centrifuged in tared tubes for 10 minutes at 15,000 g. Tubes and pellets were weighed to give the mass of fresh yeast. For trehalose determinations, portions of the pellets were treated as described by Lillie, S. H. & Pringle, J. R. [(1980) Journal of Bacteriology 143, 1384-1394]. The washed cells were broken by suspending them at 0° C. in 1 to 4 volumes of HB2M1ED, adding fresh stock PMSF/pepstatin (1 mg pepstatin A/ml 0.1M PMSF in methanol) to give final concentrations of 10 μg pepstatin/ml and 1 mM PMSF, and shaking with glass beads for three 1 minute periods in a Braun MK II homogenizer. The glass beads were removed and the volume of homogenate was measured. Samples for SDS-PAGE were made at once by dilution with Laemmli sample buffer [Laemmli, U. K. (1970) Nature, London 227, 680-685]. The homogenates were then centrifuged for 20 minutes at 28,000 g and enzyme assays were made on the supernatants.

reactant | trehalose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O | C12H22O11
reactant | PMSF pepstatin | 0.1M, 1 mg | C1=CC=C(C=C1)CS(=O)(=O)F.C[C@@H](C(=O)N[C@@H](CC(C)C)[C@H](CC(=O)O)O)NC(=O)C[C@@H]([C@H](CC(C)C)NC(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)NC(=O)CC(C)C)O
reactant | PMSF | 1 mM | C1=CC=C(C=C1)CS(=O)(=O)F | C7H7FO2S
product | pepstatin | 10 μg | C[C@@H](C(=O)N[C@@H](CC(C)C)[C@H](CC(=O)O)O)NC(=O)C[C@@H]([C@H](CC(C)C)NC(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)NC(=O)CC(C)C)O | C34H63N5O9
